US08445684B2
To a solution of 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine (118 mg, 0.33 mmol) and 4-[2-(2-phenylethoxy)ethyl]piperidine (77 mg, 0.33 mmol) in anhydrous toluene (2 mL) were added successively sodium tert-butoxide (48 mg, 0.50 mmol, 1.5 equiv.), tris(dibenzylideneacetone)dipalladium(0) (6.1 mg, 6.6 μmol, 0.02 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 11.5 mg, 20 μmol, 0.06 equiv.). The mixture was degassed and purged with Ar (3 cycles), then warmed to 98-100° C. for 4 h. After cooling to room temperature, the mixture was diluted with EtOAc, and the solution was washed with brine, dried over Na2SO4, and evaporated. The residue was purified by CC on SiO2 with CH2Cl2/EtOAc 4:1, then 1:1. 3-[[1-(tert-Butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-[2-(2-phenylethoxy)ethyl]-1-piperidinyl]pyridine (96 mg, 57%) was obtained as a pale-yellow oil.

reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine | 0.33 mmol, 118 mg | BrC=1C=NC=C(C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | 4-[2-(2-phenylethoxy)ethyl]piperidine | 0.33 mmol, 77 mg | C1(=CC=CC=C1)CCOCCC1CCNCC1 | C15H23NO
reactant | sodium tert-butoxide | 0.50 mmol, 48 mg, 1.5 equiv. | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 20 μmol, 11.5 mg, 0.06 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 6.6 μmol, 6.1 mg, 0.02 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[[1-(tert-Butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-[2-(2-phenylethoxy)ethyl]-1-piperidinyl]pyridine | 96 mg, 57% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)N1CCC(CC1)CCOCCC1=CC=CC=C1 | C30H43N3O4
